US04061541
A portion of the amylase produced in Example I containing 90,000 amylase units/ml. was diluted 1/500 with 0.05 molar glycine buffer solution, and 80 ml. of the resulting solution were added to 250 ml. of an aqueous solution containing 0.0909 percent (weight/volume basis) amylose in 0.05 molar glycine buffer adjusted to pH 9.2 at 50° C. After 100 hours at 50° C. there was an apparent conversion of 75.5 percent of the amylose to maltose and a conversion of 4.6 percent of the amylose to glucose. A small quantity of maltotriose was also produced. Such analyses were carried out by well known procedures.

reactant | maltose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@H]([C@@H]([C@H]2O)O)O)CO)O)O)O)O | C12H22O11
reactant | glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
solvent | glycine | 0.05 molar | NCC(=O)O | C2H5NO2
solvent | glycine | 0.05 molar | NCC(=O)O | C2H5NO2
product | maltotriose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@H](O[C@@H]([C@@H]([C@H]2O)O)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O)CO)CO)O)O)O)O | C18H32O16
